US07700638B2
5-Ethoxycarbonyl-7-(3-((dimethylamino)methyl)phenyl)-1-phenylbenzimidazole
This was prepared analogously to 5-Ethoxycarbonyl-7-(3-(morpholin-4-yl-methyl)phenyl)-1-phenylbenzimidazole from 5-ethoxycarbonyl-7-(3-(chloromethyl)phenyl)-1-phenylbenzimidazole (0.50 g, 1.28 mmol) and dimethylamine (approximately 2 ml) in anhydrous dimethylformamide (5 ml). The crude product was triturated in diethyl ether to afford the title product as an off-white solid (0.139, 25%) m/z, 400.2 (M+H)+.

reactant | 5-Ethoxycarbonyl-7-(3-(morpholin-4-yl-methyl)phenyl)-1-phenylbenzimidazole | C(C)OC(=O)C1=CC2=C(N(C=N2)C2=CC=CC=C2)C(=C1)C1=CC(=CC=C1)CN1CCOCC1 | C27H27N3O3
reactant | 5-ethoxycarbonyl-7-(3-(chloromethyl)phenyl)-1-phenylbenzimidazole | 1.28 mmol, 0.50 g | C(C)OC(=O)C1=CC2=C(N(C=N2)C2=CC=CC=C2)C(=C1)C1=CC(=CC=C1)CCl | C23H19ClN2O2
reactant | dimethylamine | approximately 2 ml | CNC | C2H7N
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-Ethoxycarbonyl-7-(3-((dimethylamino)methyl)phenyl)-1-phenylbenzimidazole | 25% | C(C)OC(=O)C1=CC2=C(N(C=N2)C2=CC=CC=C2)C(=C1)C1=CC(=CC=C1)CN(C)C | C25H25N3O2
